US07547691B2
Racemic 2-[5-Chloro-2-(3-piperidin-3-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride
Using the method of 2-[5-chloro-2-(2-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized as a di-hydrochloride salt from 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and racemic 3-(3-aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester. ES+(m/z) 470 (35Cl) and 472 (37Cl) [M(free base)+H].

reactant | 2-[5-chloro-2-(2-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCC2CCNCC2
reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C16H11Cl2N3OS
reactant | racemic 3-(3-aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)CCCN | C13H26N2O2
product | Racemic 2-[5-Chloro-2-(3-piperidin-3-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2CNCCC2 | InChI=1S/C24H28ClN5OS.2ClH/c25-19-14-28-24(27-11-3-5-15-4-2-10-26-13-15)30-22(19)21-12-18-17(6-1-7-20(18)32-21)23(31)29-16-8-9-16;;/h1,6-7,12,14-16,26H,2-5,8-11,13H2,(H,29,31)(H,27,28,30);2*1H
